US08455646B2
Preparation of phenyl-(3-trifluoromethoxy-phenylamino)-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl) ester (C41)
PS-DCC (920 mg, 1.15 mmol, loading: 1.25 mmol/g) is suspended in THF (15 mL). Phenyl-(3-trifluoromethoxy-phenylamino)-acetic acid hydrochloride (I40) (200 mg, 0.57 mmol) and HOBT (176 mg, 1.15 mmol) are added, followed by (R)-quinuclidin-3-ol (219 mg, 1.73 mmol) and the mixture is shaken for 16 hours at RT. PS-DCC is filtered off and the filtrate is evaporated. The resulting residue is dissolved in EtOAc and washed with water, sat. NaHCO3, water and brine. The organic phase is dried over Na2SO4, filtered and evaporated to give the title compound as a colorless oil (206 mg, 85% yield, mixture of diastereoisomers).

reactant | DCC | 1.15 mmol, 920 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Phenyl-(3-trifluoromethoxy-phenylamino)-acetic acid hydrochloride | 0.57 mmol, 200 mg | Cl.C1(=CC=CC=C1)C(C(=O)O)NC1=CC(=CC=C1)OC(F)(F)F
reactant | HOBT | 1.15 mmol, 176 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (R)-quinuclidin-3-ol | 1.73 mmol, 219 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | phenyl-(3-trifluoromethoxy-phenylamino)-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl) ester | 206 mg, 85% yield | N12C[C@@H](C(CC1)CC2)OC(C(NC2=CC(=CC=C2)OC(F)(F)F)C2=CC=CC=C2)=O | C22H23F3N2O3
